US07598248B2
Step 1: N2-(pentan-3-yl)quinoxaline-2,3-diamine.
A thick-walled microwave bottle equipped with a stirbar was charged with 3-chloroquinoxalin-2-amine (1.0 equiv) and 20 volume equivalents of 3-aminopentane. The bottle was fitted with a septum and cap and heated to 120° C. in a microwave for 30 min. The resulting solution was concentrated in vacuo. Flash chromatography (20%-60% EtOAc/Hexanes) provided the title compound (78%) as a yellow solid. LCMS m/z (APCI)=231.1 (M+H).

reactant | 3-chloroquinoxalin-2-amine | 1.0 equiv | ClC=1C(=NC2=CC=CC=C2N1)N | C8H6ClN3
reactant | 3-aminopentane | NC(CC)CC | C5H13N
product | N2-(pentan-3-yl)quinoxaline-2,3-diamine | 78% | CCC(CC)NC1=NC2=CC=CC=C2N=C1N | C13H18N4
